US08207178B2
Step H: 4-(4-(2,6-dimethyl-4-(pyridin-4-yl)phenoxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile
tert-Butyl 4-(2,6-dimethyl-4-(pyridin-4-yl)phenoxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-yl4-cyanophenylcarbamate was treated with TFA (10 mL) at 25° C. for 2 h. TFA was evaporated, the obtained residue dissolved in EtOAc, and extracted with saturated aqueous NaHCO3 (×2). The organic layer was collected, concentrated, and the product purified by chromatography (SiO2, 1:4 hexanes/EtOAc) to give the title compound as a solid (277 mg, 100%). 1H NMR (400 MHz, CDCl3-CD3OD (5:1), 25° C.) δ 8.67 (bs, 2H), 7.63 (m, 3H), 7.50 (s, 2H), 7.43 (d, J=8.8 Hz, 2H), 7.32 (d, J=3.0 Hz, 1H), 7.26 (d, J=8.7 Hz, 2H), 6.43 (d, J=2.9 Hz, 1H), 4.16 (s, 3H), 2.27 (s, 6H).

reactant | tert-Butyl 4-(2,6-dimethyl-4-(pyridin-4-yl)phenoxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-yl4-cyanophenylcarbamate | CC1=C(OC=2C3=C(N=C(N2)N(C(OC(C)(C)C)=O)C2=CC=C(C=C2)C#N)C=CN3C)C(=CC(=C1)C1=CC=NC=C1)C | C32H30N6O3
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(4-(2,6-dimethyl-4-(pyridin-4-yl)phenoxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile | 277 mg, 100% | CC1=C(OC=2C3=C(N=C(N2)NC2=CC=C(C#N)C=C2)C=CN3C)C(=CC(=C1)C1=CC=NC=C1)C | C27H22N6O
